US06566387B1
To a solution of 4-bromo-1,2-benzoxazolinone (5.0 g, 23 mmol) in DMF (11 mL) was added copper (I) cyanide (3.6 g, 39 mmol) and the reaction heated at 165° C. After 6.5 h, the reaction mixture was cooled to rt and water (20 mL) and sodium cyanide (3.6 g) were added and the reaction heated at 100° C. After 12 h, the reaction mixture was extracted with ethyl acetate and the combined organic layers were filtered through a scrub pad of silica gel eluting with ethyl acetate. The filtrate was concentrated under reduced pressure to give 1.9 g (51%) of 4-cyano-1,2-benzoxazolinone as a brown solid which required no further purification. 1H NMR (400 MHz, DMSO) δ 7.8 (s, 1H), 7.6 (d, 1H), 7.2 (d, 1H).

reactant | 4-bromo-1,2-benzoxazolinone | 23 mmol, 5.0 g | BrC1=CC=CC2=C1C(NO2)=O | C7H4BrNO2
reactant | copper (I) cyanide | 39 mmol, 3.6 g | [Cu]C#N
reactant | water | 20 mL | O | H2O
reactant | sodium cyanide | 3.6 g | [C-]#N.[Na+]
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
product | 4-cyano-1,2-benzoxazolinone | 1.9 g, 51% | C(#N)C1=CC=CC2=C1C(NO2)=O | C8H4N2O2
